US05059596
Step A: 1-Chlorosulfonyl-3,3,4,4-tetramethyl-azetidinone
To a stirred solution of 0.06 mol CSI (chlorosulfonyl isocyanate) in dry ether under nitrogen, 0.06 mol of 2,3-dimethyl-but-2-ene was added dropwise at a temperature of 30° to 35° C. The reaction mixture was stirred for a further 1 hour while it was cooled to room temperature. The solution was then cooled in a salt-ice bath and the product which crystallized out as white solid was filtered off and carried through to the next step.

reactant | CSI | 0.06 mol | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2,3-dimethyl-but-2-ene | 0.06 mol | CC(C)=C(C)C | C6H12
solvent | ether | CCOCC | C4H10O
product | 1-Chlorosulfonyl-3,3,4,4-tetramethyl-azetidinone | ClS(=O)(=O)N1C(C(C1(C)C)(C)C)=O | C7H12ClNO3S
